US04420476
6-Chloro-2-methyl-2H-benzofuro[3,2-c]pyrazol-3-amine (Ia: R1 =6-Cl, R2 =Me and R3 and R4 =H)
The crude 6-chloro-3-hydroxybenzo[b]furan-2-carboximidic acid, 1-methylhydrazide, (25 g, described in Example 5) was combined with polyphosphoric acid (250 g) and the mixture was stirred at 70°-80° C. for 4 hr. The hot mixture was poured into ice-water and the solution was made alkaline with 50% aqueous sodium hydroxide. The product was extracted several times with methylene chloride and the combined extracts were dried and evaporated. The crude product was triturated with diethyl ether to give the title compound (13 g): mp 210°-211° C.; IR (mineral oil) 3370, 3240 and 3120 cm-1 ; UV max (MeOH) 227 nm (ε=15400), 253 (22100), shoulder 209 nm; NMR (DMSO-d6) δ3.7 (3H, s), 5.4 (2H, s), and 7.5 (3H, m); and Anal. Calcd for C10H8ClN3O: C, 54.19% H, 3.64%, N, 18.96% and Found: C, 53.91% H, 3.60% N, 18.90%.

reactant | 6-chloro-3-hydroxybenzo[b]furan-2-carboximidic acid, 1-methylhydrazide | CN(N)C(=N)C1=C(C2=C(O1)C=C(C=C2)Cl)O | C10H10ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 6-Chloro-2-methyl-2H-benzofuro[3,2-c]pyrazol-3-amine | 13 g | ClC1=CC2=C(C=C1)C1=NN(C(=C1O2)N)C | C10H8ClN3O
